US08071595B2
To a stirred solution of 4-(5,5-dimethyl-4-oxo-4,5-dihydrofuran-2-yl)benzonitrile (1.2 g, 5.60 mmol) in CHCl3 (12 mL), NBS (1.1 g, 6.00 mmol) was added portionwise at RT. The reaction mixture was then stirred for 3 h and diluted with DCM (100 mL). The combined organic layers were washed with water (30 mL) and brine (30 mL), dried over Na2SO4, filtered, and then concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 4-(3-bromo-5,5-dimethyl-4-oxo-4,5-dihydrofuran-2-yl)benzonitrile (0.50 g, 31%) as an off white solid.

reactant | 4-(5,5-dimethyl-4-oxo-4,5-dihydrofuran-2-yl)benzonitrile | 5.60 mmol, 1.2 g | CC1(C(C=C(O1)C1=CC=C(C#N)C=C1)=O)C | C13H11NO2
reactant | NBS | 6.00 mmol, 1.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CHCl3 | 12 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-bromo-5,5-dimethyl-4-oxo-4,5-dihydrofuran-2-yl)benzonitrile | 0.50 g, 31% | BrC1=C(OC(C1=O)(C)C)C1=CC=C(C#N)C=C1 | C13H10BrNO2
